US04282212
1-(N-Phenylsulphonyl-carbamoyl)-2-cyanoaziridine.
0.82 g. 2-Cyanoaziridine are dissolved in 8 ml. toluene and, while cooling with ice, 2 g. phenylsulphonyl isocyanate, dissolved in 10 ml. toluene, are added dropwise thereto. After further stirring the reaction mixture for 45 minutes at ambient temperature, the precipitated crystals are filtered off with suction, washed with diethyl ether and dried in a vacuum. There is thus obtained 1.45 g. (53% of theory) 1-(N-phenylsulphonyl-carbamoyl)2-cyanoaziridine in the form of white crystals; m.p. 103°-108° C.

reactant | 2-Cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | phenylsulphonyl isocyanate | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(N-Phenylsulphonyl-carbamoyl)-2-cyanoaziridine | C1(=CC=CC=C1)S(=O)(=O)NC(=O)N1C(C1)C#N | C10H9N3O3S
